US04666993
Preparation of 2-isopropenyloxazoline-4,5-dione hydrochloride:
A warm solution of methacrylamide (21.25 g) in dichloroethane (90 ml) was dropwise added in 1 hour to oxalyl chloride (34.5 g) kept at room temperature (20° C.) while stirring. The resultant mixture was cooled with water to room temperature. The produced 2-isopropenyloxazoline-4,5-dione hydrochloride (37 g) was collected by filtration under suction, washed with hexane and dried under reduced pressure. Decomposition temperature, 102° to 103° C.

reactant | methacrylamide | 21.25 g | C(C(=C)C)(=O)N | C4H7NO
reactant | oxalyl chloride | 34.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | water | O | H2O
solvent | dichloroethane | 90 ml | ClC(C)Cl | C2H4Cl2
product | 2-isopropenyloxazoline-4,5-dione hydrochloride | Cl.C(=C)(C)C=1OC(C(N1)=O)=O | InChI=1S/C6H5NO3.ClH/c1-3(2)5-7-4(8)6(9)10-5;/h1H2,2H3;1H
